US06562849B1
1-Benzenesulfonyl-3-(7-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]naphthalen-1-yl)urea (exemplification compound number 1-256)
To a solution of 5-[4-[6-(8-aminonaphthalen-2-yloxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione (0.4 g) in anhydrous tetrahydrofuran (8 ml) was added benzenesulfonyl isocyanate (0.22 g) and the mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated. The residue was chromatographed on a silica gel column using ethyl acetate:n-hexane=3:1 as the eluant. The product was recrystallized from n-hexane to afford the title compound (55 mg, mp 199-205° C.).

reactant | 5-[4-[6-(8-aminonaphthalen-2-yloxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione | 0.4 g | NC=1C=CC=C2C=CC(=CC12)OC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | C29H24N4O4S
reactant | benzenesulfonyl isocyanate | 0.22 g | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 1-Benzenesulfonyl-3-(7-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]naphthalen-1-yl)urea | 55 mg | C1(=CC=CC=C1)S(=O)(=O)NC(=O)NC1=CC=CC2=CC=C(C=C12)OC=1C=CC2=C(N(C(=N2)COC2=CC=C(C=C2)CC2C(NC(S2)=O)=O)C)C1 | C36H29N5O7S2
